US05409874
Into a 500 ml glass reactor thoroughly purged with nitrogen were charged 100 ml of dry hexane and n-butyl lithium (hexane solution of 1.62 M, 15.6 ml), and they were stirred at -10° C. To the reaction liquid was added 1.25 g of dimethylamine at -10° C. and stirred for 30 min. The temperature of the reaction system was raised to 0° C. After the reaction of 1 hour, nitrogen was blown into the reaction system to remove the residual dimethylamine. To the reaction liquid was dropwise added 200 ml of a toluene solution containing 3.66 g of bis (1,3-dimethylcyclopentadienyl) zirconium (IV)-dichloride over a period of 30 min, and the reaction liquid was stirred at 0° C. The temperature of the reaction system was raised to room temperature. After the reaction of 1 hour, the reaction liquid was heated at 95° C. for 6 hours, and the produced salt was removed by means of filtration. The filtrate was concentrated (about 20 ml). The precipitated solid was filtered, and the obtained brown solid was purified by means of sablimation (200° C., 0.5 mmHg), to obtain 0.60 g of a crystal of bis (1,3-dimethylcyclopentadienyl)-zirconium (IV)-(dimethylamide)chloride (yield: 18%).

reactant | dimethylamine | 1.25 g | CNC | C2H7N
reactant | bis (1,3-dimethylcyclopentadienyl) zirconium (IV)-dichloride | 3.66 g | [Cl-].[Cl-].CC1(C=C(C=C1)C)[Zr+2]C1(C=C(C=C1)C)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | bis (1,3-dimethylcyclopentadienyl)-zirconium (IV) (dimethylamide)chloride | yield: 18% | CC1(C=C(C=C1)C)[Zr+2]C1(C=C(C=C1)C)C.[Cl-].C[N-]C | InChI=1S/2C7H9.C2H6N.ClH.Zr/c2*1-6-3-4-7(2)5-6;1-3-2;;/h2*3-5H,1-2H3;1-2H3;1H;/q;;-1;;+2/p-1
